US05817875
In a similar manner, the reaction of N-methyl-1-naphthalenemethylamine hydrochloride with bromoacetaldehyde ethylene acetal gives methylnaphthylmethyl-[1,3]-dioxolan-2-ylmethylamine.

reactant | N-methyl-1-naphthalenemethylamine hydrochloride | Cl.CNCC1=CC=CC2=CC=CC=C12
reactant | bromoacetaldehyde ethylene acetal | C1COC(CBr)O1 | C4H7BrO2
product | methylnaphthylmethyl-[1,3]-dioxolan-2-ylmethylamine | CN(CC1OCCO1)CC1=CC=CC2=CC=CC=C12 | C16H19NO2
